US04427677
Ethyl (2-formamido-5-chlorothiazol-4-yl)glyoxylate (40.0 g) was added to 1 N aqueous solution of potassium hydroxide (305 ml) at ambient temperature and stirred for 10 minutes. The reaction mixture was adjusted to pH 2.0 with 10% aqueous hydrochloric acid under ice cooling. A solution of allyloxyamine (14.4 g) in tetrahydrofuran (200 ml) was added to the stirred suspension of the above mixture in pyridine (54.1 g) at ambient temperature and stirred for 4 hours at the same temperature. The resultant mixture was adjusted to pH 7.5 with a saturated aqueous solution of sodium bicarbonate, and washed with ethyl acetate. The separated aqueous layer was adjusted to pH 2.0 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated under reduced pressure. The residue was washed with diisopropyl ether and collected by filtration to give 2-allyloxyimino-2-(2-formamido-5-chlorothiazol-4-yl)acetic acid (syn isomer) (24.74 g), mp. 166° to 167° C.

reactant | Ethyl (2-formamido-5-chlorothiazol-4-yl)glyoxylate | 40.0 g | C(=O)NC=1SC(=C(N1)C(C(=O)OCC)=O)Cl | C8H7ClN2O4S
reactant | potassium hydroxide | 305 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | allyloxyamine | 14.4 g | C(C=C)ON | C3H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | pyridine | 54.1 g | N1=CC=CC=C1 | C5H5N
product | 2-allyloxyimino-2-(2-formamido-5-chlorothiazol-4-yl)acetic acid | 24.74 g | C(C=C)ON=C(C(=O)O)C=1N=C(SC1Cl)NC=O | C9H8ClN3O4S
